US08389524B2
(d) 1,1-Dimethylethyl (2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)[1-(2-hydroxy-1-{[(phenylmethyl)oxy]methyl}ethyl)-4-piperidinyl]carbamate
A solution of methyl 2-[4-((2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl){[(1,1-dimethylethyl)oxy]carbonyl}amino)-1-piperidinyl]-3-[(phenylmethyl)oxy]propanoate (618 mg, 1.141 mmol) in dry THF (8 ml) at −78° C. under Ar was added LiAlH4 (1.312 ml, 1.312 mmol) dropwise. The reaction mixture was allowed to warm to ˜−10° C. over 2 h. The mixture was then stirred at 0° C. for 2 h before addition of water (0.1 ml), then sodium hydroxide (0.18 ml, 0.360 mmol) and then water (0.2 ml). The mixture was then stirred for a further 2 h at rt. The resulting mixture was filtered and washed with THF (100 ml). The combined filtrate and washings were evaporated under reduced pressure to afford the product (0.519 g, 89% yield).

reactant | methyl 2-[4-((2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl){[(1,1-dimethylethyl)oxy]carbonyl}amino)-1-piperidinyl]-3-[(phenylmethyl)oxy]propanoate | 1.141 mmol, 618 mg | O1CCOC=2C=NC(=CC21)CN(C2CCN(CC2)C(C(=O)OC)COCC2=CC=CC=C2)C(=O)OC(C)(C)C | C29H39N3O7
reactant | LiAlH4 | 1.312 mmol, 1.312 ml | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | water | 0.1 ml | O | H2O
reactant | sodium hydroxide | 0.360 mmol, 0.18 ml | [OH-].[Na+]
reactant | water | 0.2 ml | O | H2O
solvent | THF | 8 ml | C1CCOC1 | C4H8O
product | 1,1-Dimethylethyl (2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)[1-(2-hydroxy-1-{[(phenylmethyl)oxy]methyl}ethyl)-4-piperidinyl]carbamate | 0.519 g, 89% yield | O1CCOC=2C=NC(=CC21)CN(C(OC(C)(C)C)=O)C2CCN(CC2)C(CO)COCC2=CC=CC=C2 | C28H39N3O6
